US07087750B2
tert-Butyl 4-[2-phenyl-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate
tert-Butyl 4-[2-iodo-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate(40 mg, 0.07 mmol), phenyl boronic acid (12 mg, 0.1 mmol), Pd(PPh3)4 (2 mg, 0.002 mmol) and a 2M aqueous solution of K2CO3 (0.075 mL) were stirred for 3 days at 80° C. in dimethoxyethane (2 mL). After evaporation of the solvent, the crude was purified by column chromatography (SiO2) and led to 30 mg of the desired compound (80%). 1H NMR (270 MHz, DMSO-d6) δ 8.02 (d, J=8 Hz, 1 H), 7.55–7.20 (in, 11 H), 6.78 (t, J=8 Hz, 1 H), 7.57 (s, 1 H), 3.58 (in, 4 H), 3.02 (in, 4 H), 1.48 (in, 9 H). MS (ESI+) for m/z 518 (M+H)+.

reactant | tert-Butyl 4-[2-iodo-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate | 0.07 mmol, 40 mg | IC=1N(C2=CC=CC(=C2C1)N1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C23H26IN3O4S
reactant | phenyl boronic acid | 0.1 mmol, 12 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.075 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethoxyethane | 2 mL | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 0.002 mmol, 2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-[2-phenyl-1-(phenylsulfonyl)-1H-indol-4-yl]-1-piperazinecarboxylate | C1(=CC=CC=C1)C=1N(C2=CC=CC(=C2C1)N1CCN(CC1)C(=O)OC(C)(C)C)S(=O)(=O)C1=CC=CC=C1 | C29H31N3O4S
